US06887950B2
Bis(4-methoxyphenyl)(4-methylphenyl)phosphine Oxide Mixture
Magnesium (1430 g, 58.8 mol), tetrahydrofuran (12 L), and 1,2-dibromoethane (2.2 g, 0.012 mol) were stirred under nitrogen for 1 h. The mixture was then heated to reflux and the heating stopped. A mixture of 4-bromotoluene (3268 g, 19.1 mol) and 4-bromoanisole (7150 g, 38.2 mol) was added at a rate to maintain a slow reflux (67° C.) over a period of 4 h. The reaction mixture was then held for a further 5 h at 70° C. Phosphorus oxychloride (2930 g, 19.1 mol) was added at a rate to maintain a temperature of 70° C. (5 h). The reaction was then held at 70° C. for a further 5 h. The reaction mixture was then worked up to give the product mixture (5563.8 g, 83%) as an amber colored oil upon concentration. 31P NMR: (d6-DMSO) δ 27.3 (s), 27.1 (s), 26.9 (s), 26.9 (s), 26.7 (s). GC(area %): tris(4-methylphenyl)phosphine oxide 3.8%, bis(4-methylphenyl)(4-methoxyphenyl)phosphine oxide 21.0%, bis(4-methoxy-phenyl)(4-methylphenyl)phosphine oxide 39.4%, and tris(4-methoxyphenyl)-phosphine oxide 25.1%.

reactant | Magnesium | 58.8 mol, 1430 g | [Mg] | Mg
reactant | 4-bromotoluene | 19.1 mol, 3268 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | 4-bromoanisole | 38.2 mol, 7150 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | Phosphorus oxychloride | 19.1 mol, 2930 g | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | 1,2-dibromoethane | 0.012 mol, 2.2 g | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 12 L | O1CCCC1 | C4H8O
product | Bis(4-methoxyphenyl)(4-methylphenyl)phosphine Oxide | 5563.8 g, 83% | COC1=CC=C(C=C1)P(C1=CC=C(C=C1)C)(C1=CC=C(C=C1)OC)=O | C21H21O3P
